US04441910
N-[(4-Methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-methylsulfonyl-3-thiophenesulfonamide
The crude 2-methylsulfonyl-3-thiophenesulfonyl isocyanate described above was dissolved in 100 ml of methylene chloride and 10 ml of this solution (0.3 g of crude isocyanate) was added to 200 mg of 4-methoxy-6-methyl-2-pyrimidinamine in methylene chloride containing a few crystals of DABCO. After stirring 3 days at room temperature, the precipitate was filtered and washed with ether to afford 250 mg of product, m.p. 204.5°-206° d. The IR spectrum showed a carbonyl absorption at 1680 cm-1 indicative of a sulfonylurea.

reactant | 2-methylsulfonyl-3-thiophenesulfonyl isocyanate | CS(=O)(=O)C=1SC=CC1S(=O)(=O)N=C=O | C6H5NO5S3
reactant | 4-methoxy-6-methyl-2-pyrimidinamine | 200 mg | COC1=NC(=NC(=C1)C)N | C6H9N3O
reactant | DABCO | C1CN2CCN1CC2 | C6H12N2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[(4-Methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-methylsulfonyl-3-thiophenesulfonamide | 250 mg | COC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=C(SC=C1)S(=O)(=O)C | C12H14N4O6S3
